US04062861
To a solution of 1,1-dimethyl-3-(5-t-butyl-3-isoxazolyl)-urea (10.99 g) in dry dimethylformamide (10 ml), 50% sodium hydride (2.75 g) is added at room temperature with stirring, and the resultant mixture is heated at 60° C for 15 minutes. A solution of methyl iodide (8.86 g) in dry dimethylformamide (30 ml) is added at 10° C in 1 hour thereto, and the mixture is heated at 80° C for 5 minutes and evaporated to remove the solvent. The residue is combined with water and shaken with chloroform. The chloroform layer is dried over anhydrous sodium sulfate and the solvent is evaporated. The residue is chromatographed on a column of silica gel to give 1,1,3-trimethyl-3-(5-t-butyl-3-isoxazolyl)-urea (10.94 g) as crystals melting at 90 to 91.0° C. The yield is 93.38%.

reactant | 1,1-dimethyl-3-(5-t-butyl-3-isoxazolyl)-urea | 10.99 g | CN(C(=O)NC1=NOC(=C1)C(C)(C)C)C | C10H17N3O2
reactant | sodium hydride | 2.75 g | [H-].[Na+]
reactant | methyl iodide | 8.86 g | CI | CH3I
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,1,3-trimethyl-3-(5-t-butyl-3-isoxazolyl)-urea | 10.94 g, yield is 93.38% | CN(C(=O)N(C1=NOC(=C1)C(C)(C)C)C)C | C11H19N3O2
